US05385925
a) Tert.-butyl 4'-[[2-n-butyl-6-(2-carboxy-cyclohexylmethylcarbonylamino)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylate
1.3 g (2.86 mMol) of tert.-butyl 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate, 0.6 g (5.35 mMol) of hexahydrohomophthalic acid anhydride and 5 ml of pyridine are refluxed with stirring for 3 hours. Then the pyridine is removed by rotary evaporation in vacuo, the residue is crystallised from acetone, washed with acetone and dried in vacuo at 70° C.

reactant | tert.-butyl 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | 2.86 mMol, 1.3 g | NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C1 | C29H33N3O2
reactant | hexahydrohomophthalic acid anhydride | 5.35 mMol, 0.6 g | C1(CC2C(C(=O)O1)CCCC2)=O | C9H12O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Tert.-butyl 4'-[[2-n-butyl-6-(2-carboxy-cyclohexylmethylcarbonylamino)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)NC(=O)CC2C(CCCC2)C(=O)O | C38H45N3O5
